US04863959
To a stirred solution of 20 g of 4-amino-3-bromo-2,5-difluorobenzaldehyde and 400 mL of THF under an N2 atmosphere and cooled in ice is added 60 mL of an 2.85M ethereal solution of MeMgBr. The addition is carried out over 15 minutes at a temperature of 10°-16° C. 80 minutes later another 40 mL of MeMgBr is added and the ice bath is removed. 2 hours later the mixture is poured into 1 L of ice/H2O and 10% HCl is added to pH 4. The mixture is extracted with 3×300 mL of CH2Cl2. The extracts are washed with 2×150 mL of H2O, dried with Na2SO4 and stripped in vacuo to give 21.76 g of crude 4-amino-3-bromo-2,5-difluoro-α-methylbenzyl alcohol with M+1 ions at 252 and 254 in the mass spectrum.

reactant | 4-amino-3-bromo-2,5-difluorobenzaldehyde | 20 g | NC1=C(C(=C(C=O)C=C1F)F)Br | C7H4BrF2NO
reactant | MeMgBr | C[Mg+].[Br-]
reactant | MeMgBr | 40 mL | C[Mg+].[Br-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-amino-3-bromo-2,5-difluoro-α-methylbenzyl alcohol | 21.76 g | NC1=C(C(=C(C(C)O)C=C1F)F)Br | C8H8BrF2NO
